US07265149B2
c] [2-Methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-acetic acid
A mixture of [2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-acetonitrile (267 mg, 1 mmol), sodium hydroxide (403 mg, 10 mmol), water (4 ml) and ethanol (4 ml) was stirred vigorously at 85° C. for 14 h. The reaction mixture was poured onto crushed ice and aqueous HCl and extracted three times with ethyl acetate. The combined extracts were washed with water and brine, and dried over anhydrous sodium sulfate. Evaporation of the solvent under reduced pressure gave 286 mg (1 mmol, quant.) of the title compound as off-white crystals.

reactant | [2-methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-acetonitrile | 1 mmol, 267 mg | CN1N=C(C=C1CC#N)C1=CC=C(C=C1)C(F)(F)F | C13H10F3N3
reactant | sodium hydroxide | 10 mmol, 403 mg | [OH-].[Na+]
reactant | water | 4 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | [2-Methyl-5-(4-trifluoromethyl-phenyl)-2H-pyrazol-3-yl]-acetic acid | CN1N=C(C=C1CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C13H11F3N2O2
